Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
ibuprofen
 
Attending: ___.
 
Chief Complaint:
Transfer from OSH for L temporal subarachnoid hemorrhage
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ resident of assisted living facility who fell this
evening while cleaning her closet, striking the back of her 
head.
She has baseline dementia and is unable to provide specific
details surrounding the event, however she denies LOC.  EMS was
contacted by personnel at the facility, and she was taken to
___ where a CT scan revealed a very small L temporal
SAH.  She was transferred to ___ for further management.

On arrival to ___ she is alert and oriented to person and 
date.
She recalls falling but is unable to provide clear details of 
the
event.  She is otherwise neurologically intact.

ROS is negative for recent fevers, chills, nausea, vomiting,
headaches, vision changes, abdominal pain.  She endorses recent
increasing O2 requirement at home with baseline COPD.

 
Past Medical History:
PMHx:
 - Small cell lung cancer s/p chemo and XRT, no evidence of
active disease on last scan ___
 - HTN
 - COPD, per patient she does not "usually" require home O2
 - CKD, baseline Cr 1.3
 - GERD
 - Hyperlipidemia
 - Hypothyroidism
 - Dementia
 - Osteoporosis
 - Urinary incontinence
 - Sleep apnea

PSH:
 - lap ccy (___)
 
Social History:
___
Family History:
 2 brothers died of lung cancer, 1 brother had head and neck 
cancer, sister with multiple myeloma.
Otherwise noncontributory.
 
Physical Exam:
GCS 15
T: 97.9 BP: 114/70  HR: 79   R 18   O2Sats 96% 2L
Gen: WD/WN, comfortable, NAD.
HEENT: Pupils:  ERRLA       EOMs intact
Neck: Supple.
Lungs: CTA bilaterally.
Cardiac: RRR. S1/S2.
Abd: Soft, NT, BS+
Extrem: Warm and well-perfused. 2+ edema b/l feet to ankles

Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect. 
Orientation: Oriented to person and date. Unclear about specific
location ("downtown ___.
Language: Speech fluent with good comprehension and repetition.
Naming intact. No dysarthria or paraphasic errors.

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, to
mm bilaterally. Visual fields are full to confrontation.
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to finger rub bilaterally.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout. No pronator drift

Sensation: Intact to light touch, propioception, pinprick and
vibration bilaterally.

Toes downgoing bilaterally

Coordination: normal on finger-nose-finger

 
Pertinent Results:
___ 07:10AM   GLUCOSE-89 UREA N-20 CREAT-1.3* SODIUM-142 
POTASSIUM-4.3 CHLORIDE-107 TOTAL CO2-25 ANION GAP-14
___ 07:10AM   CALCIUM-8.9 PHOSPHATE-3.1 MAGNESIUM-1.9
___ 07:10AM   WBC-6.0 RBC-3.63* HGB-10.8* HCT-33.8* MCV-93 
MCH-29.8 MCHC-32.0 RDW-13.3
___ 07:10AM   PLT COUNT-158
___ 12:35AM URINE  COLOR-Yellow APPEAR-Hazy SP ___
___ 12:35AM URINE  BLOOD-TR NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-LG
___ 12:35AM URINE  RBC-2 WBC-92* BACTERIA-FEW YEAST-NONE 
EPI-2 TRANS EPI-1
___ 12:15AM   ___ PTT-41.3* ___

___ CT Head
IMPRESSION: 
  
1.  Previously seen hyperdense linear streak in the left 
temporal lobe is not 
seen on this exam, likely artifactual in nature.  No evidence of 
acute 
intracranial process.  
  
2.  Chronic small vessel ischemic disease.   

 
Brief Hospital Course:
___ is a ___ year old female who was admitted to the 
Neurosurgery Service on ___ as a transfer from an outside 
hospital with a diagnosis of left temporal subarachnoid 
hemorrhage status-post mechanical fall at her assisted living 
facility. She was admitted to the neurosurgery service for 
observation and treated conservatively with head CT imaging and 
neuro monitoring. Imaging revealed a very small left temporal 
subarachnoid hemorrhage with no mass effect or midline shift. 
Repeat imaging revealed no change in the size or nature of her 
lesion.
She was subsequently discharged back to her assisted living 
facility in stable condition with clear instructions for 
follow-up.

 
Medications on Admission:
Atorvastatin 40 mg, benzonatate 100 mg TID, Celexa 20 mg, 
donepezil 10 mg, Vitamin D2 50,000 unit, DuoNeb 0.5 mg-3 mg(2.5 
mg base)/3 mL solution, levothyroxine 112 mcg, metoprolol 
succinate ER 25 mg, oxybutynin chloride ER 5 mg, pantoprazole 40 
mg, sucralfate 1 gm, acetaminophen, ASA, lotrimin
 
Discharge Medications:
1. Acetaminophen ___ mg PO Q6H:PRN pain 
2. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN wheeze 
3. Atorvastatin 40 mg PO DAILY 
4. Benzonatate 100 mg PO TID 
5. Citalopram 20 mg PO DAILY 
6. HydrALAzine 10 mg IV Q4H:PRN SBP > 140 
7. Ciprofloxacin HCl 500 mg PO Q12H Duration: 3 Days 
8. Ipratropium Bromide Neb 1 NEB IH Q6H:PRN wheeze 
9. Levothyroxine Sodium 112 mcg PO DAILY 
10. Metoprolol Succinate XL 25 mg PO DAILY 
11. Oxybutynin 2.5 mg PO BID 
12. Pantoprazole 40 mg PO Q24H 
13. Sucralfate 1 gm PO QHS 

 
Discharge Disposition:
Extended Care
 
Discharge Diagnosis:
Subarachnoid hemorrhage

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
•Take your pain medicine as prescribed.
•Exercise should be limited to walking; no lifting, straining, 
or excessive bending.
•Increase your intake of fluids and fiber, as narcotic pain 
medicine can cause constipation. We generally recommend taking 
an over the counter stool softener, such as Docusate (Colace) 
while taking narcotic pain medication.
•Unless directed by your doctor, do not take any 
anti-inflammatory medicines such as Motrin, Aspirin, Advil, or 
Ibuprofen etc. 
•If you were on a medication such as Coumadin (Warfarin), or 
Plavix (clopidogrel), or Aspirin prior to your injury, you may 
safely resume taking this on XXXXXXXXXXX.

CALL YOUR SURGEON IMMEDIATELY IF YOU EXPERIENCE ANY OF THE 
FOLLOWING

•New onset of tremors or seizures.
•Any confusion, lethargy or change in mental status. 
•Any numbness, tingling, weakness in your extremities.
•Pain or headache that is continually increasing, or not 
relieved by pain medication.
•New onset of the loss of function, or decrease of function on 
one whole side of your body.

 
Followup Instructions:
___